US08110585B2
methyl 1H-indazole-4-carboxylate
A mixture of methyl 3-amino-o-toluate (100 g, 605 mmol), a solution of ammonium tetrafluoroborate (83.0 g, 787 mmol) in water (600 mL) and concentrated hydrochloric acid (121 mL, 3.93 mmol) was cooled to 0° C., and a solution of sodium nitrite (41.8 g, 605 mmol) in water (88 mL) was added dropwise to the mixture over 25 min. This mixture was stirred for 35 min, and the resulting solid was collected by filtration. This solid was washed with water, methanol and diethyl ether, dried under nitrogen atmosphere, and added to a solution of potassium acetate (65.4 g, 666 mmol) and 18-crown-6 (4.50 g, 17.0 mmol) in chloroform (1.37 L). The resulting mixture was stirred at room temperature for 2 hr, and water (700 mL) was added. The partitioned organic layer was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was triturated with hexane, and collected by filtration to give the title compound (63.0 g, yield 59%).

reactant | methyl 3-amino-o-toluate | 605 mmol, 100 g | NC1=C(C(=CC=C1)C)C(=O)OC | C9H11NO2
reactant | ammonium tetrafluoroborate | 787 mmol, 83.0 g | F[B-](F)(F)F.[NH4+]
reactant | sodium nitrite | 605 mmol, 41.8 g | N(=O)[O-].[Na+]
reactant | potassium acetate | 666 mmol, 65.4 g | C(C)(=O)[O-].[K+]
solvent | water | 600 mL | O | H2O
solvent | water | 88 mL | O | H2O
solvent | chloroform | 1.37 L | C(Cl)(Cl)Cl | CHCl3
catalyst | hydrochloric acid | 3.93 mmol, 121 mL | Cl | ClH
catalyst | 18-crown-6 | 17.0 mmol, 4.50 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | 700 mL | O | H2O
product | methyl 1H-indazole-4-carboxylate | 63.0 g, yield 59% | N1N=CC=2C(=CC=CC12)C(=O)OC | C9H8N2O2
